US05837702
A. N-(4-Fluorophenyl)glycine ethyl ester
A solution of ethyl glyoxylate (2.47 g, 0.024 mol) in 1,2-dichloroethane (30 mL) under argon at room temperature was treated succesively with 4-fluoroaniline (1.80 g, 0.016 mol), sodium triacetoxyborohydride (5.12 g, 0.024 mol) and acetic acid (1 mL). After stirring for two hours, the mixture was concentrated, dissolved in ethyl acetate and washed 5% sodium bicarbonate, water and brine. The dried (anhydrous magnesium sulfate) organic solution was concentrated and crystallized from ether/hexanes to give the title product (2.07 g, 65%) as a colorless solid, mp 72°-73° C. Analysis calculated for C10H12 FNO2 ·0.07 H2O: C, 60.54; H, 6.16; N, 7.06; F, 9.58. Found: C, 60.75; H, 6.15; N, 6.96; F, 9.13.

reactant | ethyl glyoxylate | 0.024 mol, 2.47 g | C(C=O)(=O)OCC | C4H6O3
reactant | 4-fluoroaniline | 0.016 mol, 1.80 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium triacetoxyborohydride | 0.024 mol, 5.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | N-(4-Fluorophenyl)glycine ethyl ester | 2.07 g, 65% | C(C)OC(CNC1=CC=C(C=C1)F)=O | C10H12FNO2
